US08334384B2
The at least one 1,2-diaminobenzene compound and the 1,2,4,5-tetrahydroxybenzene compound can be combined to form a mixture, and the mixture is then heated in an inert environment to form the 5,7,12,14-tetrahydro-5,7,12,14-tetraazapentacene compound. The mixture can be heated at a temperature of from about 110° C. to about 250° C., and the mixture can be heated for a time period of from about 30 minutes to about 12 hours.

reactant | 1,2-diaminobenzene | NC1=C(C=CC=C1)N | C6H8N2
reactant | 1,2,4,5-tetrahydroxybenzene | OC1=C(C=C(C(=C1)O)O)O | C6H6O4
product | 5,7,12,14-tetrahydro-5,7,12,14-tetraazapentacene | C1=CC=CC=2NC3=CC=4NC5=CC=CC=C5NC4C=C3NC12 | C18H14N4
